US08383827B2
N-[5-(3-Chloro-4-cyano-phenyl)-pyridin-3-yl]-4-cyano-benzene-sulfonamide
According to General Sulfonylation Procedure 2 in example 1, to a solution of 4-(5-amino-pyridin-3-yl)-2-chloro-benzonitrile (20 mg, 87 μmol, 1 eq) in anhydrous pyridine (500 μl) was added 4-cyano-benzenesulfonyl chloride (19.3 mg, 96 μmol, 1.1 eq).

reactant | 4-(5-amino-pyridin-3-yl)-2-chloro-benzonitrile | 87 μmol, 20 mg, 1 eq | NC=1C=C(C=NC1)C1=CC(=C(C#N)C=C1)Cl | C12H8ClN3
reactant | 4-cyano-benzenesulfonyl chloride | 96 μmol, 19.3 mg, 1.1 eq | C(#N)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H4ClNO2S
solvent | pyridine | 500 μl | N1=CC=CC=C1 | C5H5N
product | N-[5-(3-Chloro-4-cyano-phenyl)-pyridin-3-yl]-4-cyano-benzene-sulfonamide | ClC=1C=C(C=CC1C#N)C=1C=C(C=NC1)NS(=O)(=O)C1=CC=C(C=C1)C#N | C19H11ClN4O2S
